US06294532B1
A solution of 7-azaoxindole (284 mg, 2.1 mmol), (prepared as described for the starting material in Example 2), in THF (10 mn) was added to a suspension of sodium hydride (112 mg, 2.8 mmol, prewashed with petroleum ether) in THF (6 ml). After stirring for 20 minutes at ambient temperature, a solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (238 mg, 0.7 mmol) in a mixture of THF (3 ml) and DMF (1 ml) was added. After stirring for 1 hour at 65° C., the volatiles were removed by evaporation. The residue was partitioned between water and ether. The aqueous layer was separated and adjusted to pH7 with 2M hydrochloric acid. After evaporation of water, the precipitate was triturated with ether, collected by filtration, washed with ether, and dried under vacuum. The residue was purified by column chromatography eluting with methylene chloride/methanol (9515 followed by 90110). After evaporation of the solvent, the residue was suspended in methylene chloride/methanol (1/1) and 3M hydrogen chloride in ether was added. After removal of the solvent by evaporation, the solid was collected by filtration, washed with ether and dried under vacuum to give 4-(7-azaoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 51%).

reactant | 7-azaoxindole | 2.1 mmol, 284 mg | N1C(CC2=CC=CN=C12)=O | C7H6N2O
reactant | sodium hydride | 2.8 mmol, 112 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.7 mmol, 238 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-(7-azaoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 150 mg, 51% | N1C(C(C2=CC=CN=C12)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)=O | C23H25N5O4
